US09029405B2
Step 4: 1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethanone
To a stirred solution of oxalyl chloride (758 μL; 8.8 mmol in anhydrous DCM (50 mL) at −68° C. a solution of dimethylsulfoxyde (1.3 mL; 17.7 mmol) dissolved in DCM (10 mL) was added over a period of 5 min. The reaction mixture was stirred for 15 min followed by addition of a solution of 1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethanol (1.5 g; 3.5 mmol, obtained in step 3 in DCM (10 mL) within 15 min. After being stirred for 1 h at −68° C., the reaction was allowed to reach −30° C., stirred for 15 min and then re-cooled to −68° C. Triethylamine (1.8 mL; 12.7 mmol) was added and the mixture was allowed to reach RT. The clear yellow solution was partioned between saturated aqueous sodium bicarbonate and ethyl acetate, the organic layer was washed with brine, dried over MgSO4, filtered and concentrated. The crude mixture was purified by flash chromatography affording the title compound as a white powder. 1H NMR (DMSO-d6, 300 MHz) δ 8.67-8.47 (m, 2H), 8.29 (d, J=7.9 Hz, 2H), 8.19 (d, J=8.3 Hz, 2H), 7.67 (d, J=7.9 Hz, 1H), 7.43-7.25 (m, 3H), 7.17 (d, J=7.7 Hz, 1H), 2.67 (s, 3H), 2.02 (s, 3H). HPLC (Method A) Rt 6.00 min (Purity: 99.0%).

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxyde | 17.7 mmol, 1.3 mL | CS(=O)C | C2H6OS
reactant | 1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethanol | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)C(C)O)C(F)(F)F | C24H19F3N2O2
reactant | Triethylamine | 12.7 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-{5-[2′-methyl-2-(trifluoromethyl)biphenyl-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)ethanone | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C1=NC(=NO1)C1=CC=C(C=C1)C(C)=O)C(F)(F)F | C24H17F3N2O2
